US07538135B2
To a solution of the title A compound, (3-amino-1-ethyl-1H-pyrazol-4-yl)-phenyl-methanone (0.035 g, 0.16 mmol) in pyridine at RT, is added 4-(5-methyl-2-phenyl-oxazol-4-ylmethoxy)-benzenesulfonyl chloride (0.06 g, 0.16 mmol) in pyridine. The solution is stirred at RT for 16 h. The reaction mixture is concentrated, the residue is taken up into ethyl acetate, washed with 1 N HCl, water, saturated sodium bicarbonate and brine, dried over anhydrous magnesium sulfate, filtered and concentrated at reduced pressure. The crude product is chromatographed on silica gel using 50% ethyl acetate in hexanes to yield N-(4-benzoyl-1-ethyl-1H-pyrazol-3-yl)-4-(5-methyl-2-phenyl-oxazol-4-ylmethoxy)-benzenesulfonamide as a solid: MS [m/z] 541.1 [M-1]−.

reactant | (3-amino-1-ethyl-1H-pyrazol-4-yl)-phenyl-methanone | 0.16 mmol, 0.035 g | NC1=NN(C=C1C(=O)C1=CC=CC=C1)CC | C12H13N3O
reactant | 4-(5-methyl-2-phenyl-oxazol-4-ylmethoxy)-benzenesulfonyl chloride | 0.16 mmol, 0.06 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(C=C1)S(=O)(=O)Cl | C17H14ClNO4S
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | N-(4-benzoyl-1-ethyl-1H-pyrazol-3-yl)-4-(5-methyl-2-phenyl-oxazol-4-ylmethoxy)-benzenesulfonamide | C(C1=CC=CC=C1)(=O)C=1C(=NN(C1)CC)NS(=O)(=O)C1=CC=C(C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C29H26N4O5S
